US09126993B2
A mixture of 3-isopropyl-benzoic acid (5.00 g, 30.4 mmol) in SOCl2 (50 ml) was stirred at 100° C. for 2 h. The reaction mixture was concentrated to give 3-isopropyl-benzoyl chloride (5.00 g, 91%).

reactant | 3-isopropyl-benzoic acid | 30.4 mmol, 5.00 g | C(C)(C)C=1C=C(C(=O)O)C=CC1 | C10H12O2
reactant | SOCl2 | 50 ml | O=S(Cl)Cl | Cl2OS
product | 3-isopropyl-benzoyl chloride | 5.00 g, 91% | C(C)(C)C=1C=C(C(=O)Cl)C=CC1 | C10H11ClO
